US04801585
1-(4-chlorophenoxyacetyl)-2-(1-pyrrolidinylmethyl) piperidine hydrochloride.
Prepared from 2-(1-pyrrolidinylmethyl)piperidine and 4-chlorophenoxyacetic acid.

reactant | 2-(1-pyrrolidinylmethyl)piperidine | N1(CCCC1)CC1NCCCC1 | C10H20N2
reactant | 4-chlorophenoxyacetic acid | ClC1=CC=C(OCC(=O)O)C=C1 | C8H7ClO3
product | 1-(4-chlorophenoxyacetyl)-2-(1-pyrrolidinylmethyl) piperidine hydrochloride | Cl.ClC1=CC=C(OCC(=O)N2C(CCCC2)CN2CCCC2)C=C1 | InChI=1S/C18H25ClN2O2.ClH/c19-15-6-8-17(9-7-15)23-14-18(22)21-12-2-1-5-16(21)13-20-10-3-4-11-20;/h6-9,16H,1-5,10-14H2;1H
